US08957070B2
N-Ethyl-N-{2-[5-(1-hydroxyethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixed solution of N-ethyl-N-[2-(5-formyl-1,3-thiazol-2-yl)-4-methyl-1H-indol-7-yl]thiophene-2-sulfonamide (0.30 g) and tetrahydrofuran (30 mL) was added ether solution (0.60 mL) of 3M-methylmagnesium bromide under ice-cooling, and the mixture was stirred at the same temperature for 4 hr. The reaction mixture was diluted with ethyl acetate, washed successively with aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:2-2:1), and the obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (201 mg, yield 65%) as pale-yellow prism crystals. melting point 152-153° C.

reactant | N-ethyl-N-[2-(5-formyl-1,3-thiazol-2-yl)-4-methyl-1H-indol-7-yl]thiophene-2-sulfonamide | 0.30 g | C(C)N(S(=O)(=O)C=1SC=CC1)C=1C=CC(=C2C=C(NC12)C=1SC(=CN1)C=O)C | C19H17N3O3S3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | ether | 0.60 mL | CCOCC | C4H10O
reactant | methylmagnesium bromide | C[Mg]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Ethyl-N-{2-[5-(1-hydroxyethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}thiophene-2-sulfonamide | 201 mg, yield 65% | C(C)N(S(=O)(=O)C=1SC=CC1)C=1C=CC(=C2C=C(NC12)C=1SC(=CN1)C(C)O)C | C20H21N3O3S3
